US05610144
The operation is carried out in a fashion similar to that described in Example 33, but starting from 3.5 g of tert-butyl-(2RS,4R)-2-(2-fluorophenyl)-4-thiazolidinecarboxylate, 2.3 g of 2-[3-(3-methylphenyl)ureido]acetic acid and 2.3 g of N,N'-dicyclohexylcarbodiimide. After vigorous stirring in heptane, 1.05 g of tert-butyl (2R,4R)-3-{2-[3-(3-methylphenyl)ureido]acetyl}-2-(2-fluorophenyl)-4-thiazolidinecarboxylate are thus obtained in the form of a white solid, melting at 107° C. ([α]D20 =+61.8°±1.5° (C=0.66%; DMF)) [proton NMR (200 MHz, DMSO D6, δ in ppm), 2 rotamers at room temperature, peak coalescence at 120° C., characteristic chemical shifts at 120° C.: 2.2 (bs, 3H, CH3); 6.7 (bd, 1H, N--C6H4 --C in position 4 or 6); 7.1 to 7.40 (m, 6H, aromatic); 7.9 (bm, 1H, C6H4F in position 3). Infrared spectrum (KBr), characteristics bands in cm-1 : 3370, 2975, 2925, 1735, 1645, 1615, 1590, 1560, 1490, 1460, 1370, 1150, 775, 760, 690].

reactant | tert-butyl-(2RS,4R)-2-(2-fluorophenyl)-4-thiazolidinecarboxylate | 3.5 g | C(C)(C)(C)OC(=O)[C@H]1NC(SC1)C1=C(C=CC=C1)F | C14H18FNO2S
reactant | 2-[3-(3-methylphenyl)ureido]acetic acid | 2.3 g | CC=1C=C(C=CC1)NC(NCC(=O)O)=O | C10H12N2O3
reactant | N,N'-dicyclohexylcarbodiimide | 2.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | KBr | [K+].[Br-]
solvent | heptane | CCCCCCC | C7H16
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl (2R,4R)-3-{2-[3-(3-methylphenyl)ureido]acetyl}-2-(2-fluorophenyl)-4-thiazolidinecarboxylate | 1.05 g | CC=1C=C(C=CC1)NC(NCC(=O)N1[C@H](SC[C@H]1C(=O)OC(C)(C)C)C1=C(C=CC=C1)F)=O | C24H28FN3O4S
